US04349686
N-(5-Formyl-thien-2-yl)-N-hexadecyl-butyric acid amide.
78 g of N-hexadecyl-N-(2-thienyl)-butyric acid amide are dissolved in 59 cc. of anhydrous DMF and 36.7 g of phosphorus oxychloride are added thereto with ice cooling such that the temperature of the reaction mixture does not rise above 20° C. Stirring is continued for 1 hour at 20° C. and the mixture is finally heated for 3 hours to 80° C. Ice is added to the reaction mixture and 5 N soda lye is added until reaching a pH of 6. The mixture is extracted with ether, the ethereal layer is separated, washed with water and dried over Na2SO4. The desired final product crystallizes from the ethereal solution upon cooling to low temperature.

reactant | N-hexadecyl-N-(2-thienyl)-butyric acid amide | 78 g | C(CCCCCCCCCCCCCCC)N(C(CCC)=O)C=1SC=CC1 | C24H43NOS
reactant | phosphorus oxychloride | 36.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | CN(C)C=O | C3H7NO
product | N-(5-Formyl-thien-2-yl)-N-hexadecyl-butyric acid amide | C(=O)C1=CC=C(S1)N(C(CCC)=O)CCCCCCCCCCCCCCCC | C25H43NO2S
